US05378729
A BBr3 solution (1M in CH2Cl2, 1.1 equiv) was added to a solution of 2-acetamido-N-benzyl-2-ethoxyacetamide (1 equiv) in CH2Cl2 (10 mmol/125 mL). The mixture was stirred at room temperature (5 h) and then concentrated to dryness in vacuo to give 2-acetamido-N-benzyl-2-bromoacetamide as a pale yellow crystalline material. The bromo adduct was then dissolved in THF (10 mmol/250 mL), cooled (-78° C.), and then added over a 15 min interval to a cooled (-78° C.) solution of the heteroatom nucleophile in THF (1 mmol/1 mL). The reaction mixture was stirred at this temperature (30 min) and then at room temperature (90 min). The insoluble salts were filtered and the filtrate concentrated in vacuo. The residue was then purified by flash column chromatography on SiO2 gel using the indicated solvent as the eluent.

reactant | BBr3 | 1M, 1.1 equiv | B(Br)(Br)Br | BBr3
reactant | 2-acetamido-N-benzyl-2-ethoxyacetamide | 1 equiv | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)OCC | C13H18N2O3
reactant | CH2Cl2 | 10 mmol, 125 mL | C(Cl)Cl | CH2Cl2
product | 2-acetamido-N-benzyl-2-bromoacetamide | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)Br | C11H13BrN2O2
